US06350771B1
A solution of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)-phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime (0.15 g) in ethanol was added to a solution of sodium ethoxide (0.025 g)in ethanol at 20° C., followed by iodomethane (0.023 ml). The reaction was monitored by HPLC and over the next 24 hours three additional equivalents of iodomethane were added. The reaction mixture was then concentrated and partitioned between dichloromethane and water. The organic layer was water-washed, dried (MgSO4) and concentrated. This was then combined with crude product from another identical preparation and chromatographed on a silica gel column, eluting with hexane/ethyl acetate, to give 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde O-(methyl)oxime (0.06 g)as a yellow solid m.p. 80° C. Compound 17.

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)-phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime | 0.15 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C=NO)S(=O)C | C12H9Cl2F3N4O2S
reactant | sodium ethoxide | 0.025 g | [O-]CC.[Na+]
reactant | iodomethane | 0.023 ml | IC | CH3I
solvent | ethanol | C(C)O | C2H6O
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde O-(methyl)oxime | 0.06 g | CON=CC1=NN(C(=C1S(=O)C)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H11Cl2F3N4O2S
